US04472305
Condensation of BocPro-MeDTrp-PheOH (3.68 g.) and HDTrp-Leu-MetNH2 acetate salt (part B of Example 17, 3.32 g.) using dicyclohexylcarbodiimide and N-hydroxysuccinimide gave BocPro-MeDTrp-Phe-DTrp-Leu-MetNH2 in 20% yield. De-t-butoxycarbonylation of BocPro-MeDTrp-Phe-DTrp-Leu-MetNH2 (1.00 g.) using trifluoroacetic acid in methyl ethyl sulfide and ethanedithiol gave HPro-MeDTrp-Phe-DTrp-Leu-MetNH2, which was isolated as the amorphous white solid phosphate salt monohydrate in 67% yield.

reactant | BocPro-MeDTrp-Phe-DTrp-Leu-MetNH2 | 1.00 g | N1([C@H](C(=O)N([C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C)CCC1)C(=O)OC(C)(C)C | C53H69N9O8S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methyl ethyl sulfide | C(C)SC | C3H8S
solvent | ethanedithiol | C(C)(S)S | C2H6S2
product | HPro-MeDTrp-Phe-DTrp-Leu-MetNH2 | N1[C@H](C(=O)N([C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C)CCCC1 | C49H63N9O6S
